Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Code Stroke- Expressive aphasia
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
Mr. ___ is a ___ yo man with history of HTN who presents with 
aphasia and right sided weakness.

Per neuro resident who was with him at symptom onset:
He was speaking at a conference and started stumbling over his 
words. His colleagues initially attributed this to nervousness, 
but when the problem persisted he was further assessed and found 
to have stuttering non-fluent speech with difficulty getting 
words out. He complained of right eye blurry vision. He was 
unsteady when walking and seemed to be dragging his right foot.

Per ED resident:
On initially exam in ED by ED physicians, ___ 2 for right arm 
drift and aphasia.

Per patient:
He has had 2 months of unexplained nausea, with sudden waves of 
nausea. He has been taking omeprazole and Zofran for this. Today 
he felt nauseous during rounds. He then went to this "class 
thing" and he was not nervous but felt his nausea worsening.  He 
developed right sided symptoms, including right eye blurry 
vision, right eye heaviness, right arm feeling cold, right arm 
feeling weak. Reading became difficult and he was stumbling over 
his words and had trouble speaking. He kept repeating himself 
and could see words on the page in front of him but couldn't 
pronounce them. He texted a resident that he wasn't feeling 
well. He felt confused and unclear about what was going on and 
couldn't "engage", and doesn't remember what happened next with 
much clarity. He knows that he was unsteady when walking and was 
dragging his right foot. He felt his heart was thumping.

He states that several days ago he had right neck pain. He 
denies recent trauma. He rarely gets a metallic taste in his 
mouth or a gastric rising sensation. He has motion sickness. He 
has never had febrile seizures as a child.

Currently in the ED he feels his speech is still stuttering but 
is much improved for prior. He denies current headache and 
denies history of headaches.

No history of migraines, no history of seizure.
 
Past Medical History:
HTN
OSA on CPAP
Nausea
 
Social History:
___
Family History:
 - mother - possible migraines
- MGM - vascular dementia
- no history of seizures, stroke
 
Physical Exam:
* Admission Exam *
T97  HR 144   BP 150/90  O2 sat 100% RA 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, MMM
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
 Pulmonary: CTABL
 Cardiac: tachycardic, no murmurs
 Abdomen: soft, nontender, nondistended
 Extremities: no edema, pulses palpated
 Skin: no rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3.  Able to relate history 
but with some difficulty, improved on repeated questioning later 
by the attending physician.  Language is fluent but hesitant, 
with intact repetition and comprehension.  Normal prosody.  
There were no paraphasic errors.  Pt. was able to name both high 
and low frequency objects (says flower for feather but corrects 
himself).  Able to read but is hesitant.  Speech was not 
dysarthric.  Able to follow both midline and appendicular 
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
 III, IV, VI: EOMI without nystagmus.
 V: Facial sensation diminished to 80% of normal for light touch 
in all distributions
VII: Right NLFF, Right ptosis 
 VIII: decreased hearing on Right.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  ___   ___  ___   5   5    5     5  
 R 4+   5   4+  5  4+   ___   5  4+   5    5     5  
  
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   3    2     3     3    2
 R   3    2     3     3    2

- Plantar response was flexor bilaterally.
 - Pectoralis Jerk was absent, and Crossed Adductors are 
present. 
  
 -Sensory: No deficits to light touch, pinprick, proprioception, 
cold throughout. No extinction to DSS.

-Coordination: No intention tremor noted. No dysmetria on FNF or 
HKS bilaterally, but with incoordination proportional to 
weakness on right FNF. 

-Gait: Good initiation. Narrow-based, no listing to one side, no 
foot drop.

* Discharge Examination *
- Entirely returned to baseline- no language difficulties, 
hemiplegia, sensory change, etc.  Normal neurologic examination
 
Pertinent Results:
___ 01:48PM BLOOD WBC-9.8 RBC-5.05 Hgb-15.5 Hct-45.2 MCV-90 
MCH-30.7 MCHC-34.3 RDW-12.3 RDWSD-40.2 Plt ___
___ 10:00AM BLOOD WBC-6.2 RBC-4.89 Hgb-15.2 Hct-44.9 MCV-92 
MCH-31.1 MCHC-33.9 RDW-12.7 RDWSD-42.7 Plt ___
___ 01:48PM BLOOD Neuts-61.0 ___ Monos-8.1 Eos-1.1 
Baso-0.7 Im ___ AbsNeut-5.91 AbsLymp-2.77 AbsMono-0.79 
AbsEos-0.11 AbsBaso-0.07
___ 01:48PM BLOOD ___ PTT-25.2 ___
___ 10:00AM BLOOD Plt ___
___ 01:48PM BLOOD Glucose-144* UreaN-13 Na-138 K-3.1* Cl-98 
HCO3-21* AnGap-22*
___ 10:00AM BLOOD Glucose-91 UreaN-10 Creat-1.1 Na-137 
K-4.2 Cl-99 HCO3-25 AnGap-17
___:48PM BLOOD ALT-54* AST-27 AlkPhos-64 TotBili-0.6
___ 01:48PM BLOOD Albumin-5.0 Calcium-9.7 Phos-2.2* Mg-1.9
___ 09:47PM BLOOD Calcium-9.5 Phos-4.0 Mg-2.0 Cholest-164
___ 09:47PM BLOOD %HbA1c-4.9 eAG-94
___ 09:47PM BLOOD Triglyc-79 HDL-47 CHOL/HD-3.5 LDLcalc-101
___ 01:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Brain MRI w/ and w/o Contrast, Seizure Protocol ___: 
IMPRESSION:
1. Normal brain MRI.  No concerning enhancing lesions 
identified.

CXR ___: IMPRESSION: No acute cardiopulmonary process.

CTA head and neck ___: IMPRESSION: 1. Essentially normal head 
and neck CTA.

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with a history of HTN and OSA on CPAP 
who developed nausea followed by stumbling over his words and 
non-fluent speech with repetition of phrases and difficulty 
reading, difficulty processing thoughts and mild subjective 
confusion, right sided weakness/numbness and right sided blurry 
vision around 12:30 pm.

# Neuro
- He was evaluated in the ED as a code stroke.  Initial exam 
notable for an expressive aphasia and mild right hemiplegia.  
NCHCT and CTA were normal.  His deficits resolved within 1 hour 
and tPA was not administered.  He was admitted and evaluated 
with serial exam and MRI.  Brain MRI including contrast images 
and diffusion images were normal.  He was entirely at his 
baseline in the morning.  Patient requested discharge with plans 
to get outpatient EEG.  As there was no loss of consciousness, 
he is felt to be safe to drive.  The above episode started with 
nausea.  The patient notes several months of recurrent nausea 
without explanation (? Simple partial event). Given normal Brain 
MRI, he was felt to be safe to discharge with outpatient 
neurology follow-up and EEG for further evaluation.  His 
symptoms were most consistent with a complicated migraine but he 
was also counselled regarding seizure safety and the need to 
return to the ED should the event recur.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 12.5 mg PO DAILY 
2. Ondansetron 4 mg PO Q8H:PRN nausea 
3. Omeprazole 20 mg PO DAILY 
4. Fluticasone Propionate NASAL ___ SPRY NU DAILY 

 
Discharge Medications:
1.  Fluticasone Propionate NASAL ___ SPRY NU DAILY  
2.  Lisinopril 12.5 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4.  Ondansetron 4 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 ? First time Seizure vs Complex Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
   You were admitted to the Neurology service after a transient 
episode of nausea, visual changes, expressive aphasia and mild 
right sided weakness without loss of consciousness.  This 
resolved spontaneously.  You were admitted and monitored and 
spontaneously improved.  
   You underwent an expedited brain MRI which showed no evidence 
of mass, stroke or other explanatory abnormality.  It is unclear 
what this event was, but suspicion for TIA or Stroke is low 
given history and MRI.  It may have represented a first time 
seizure or complex migraine.  Further outpatient evaluation, 
including EEG, is needed.
 
Followup Instructions:
___